US06127354
(2R)-2-(N-((2R)-2-Amino-3-(2-naphthyl)propyl)-N-chloroacetyl-amino)-N-methyl-3-phenylpropionamide (0.69 g, 1.58 mmol) was dissolved in methanol (14 ml) and sodium hydrogen carbonate (0.40 g, 4.73 mmol) and water (7 ml) were added. The mixture was stirred overnight at room temperature. The solvent was removed in vacuo and the residue was dissolved in a mixture of ethyl acetate (30 ml) and saturated aqueous sodium hydrogen carbonate (20 ml). The mixture was extracted with ethyl acetate (4×20 ml). The combined organic phases were dried (magnesium sulfate) and the solvent was removed in vacuo. The residue was chromatographed on silica (2×20 cm) using methylene chloride/methanol/25% aqueous ammonia (100:10:1) to afford 0.19 g of (2R)-N-methyl-2-((5R)-5-((2-naphthyl)methyl)-2-oxopiperazin-1-yl)-3-phenylpropionamide

reactant | (2R)-2-(N-((2R)-2-Amino-3-(2-naphthyl)propyl)-N-chloroacetyl-amino)-N-methyl-3-phenylpropionamide | 1.58 mmol, 0.69 g | N[C@@H](CN(C(CCl)=O)[C@@H](C(=O)NC)CC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C25H28ClN3O2
reactant | sodium hydrogen carbonate | 4.73 mmol, 0.40 g | C(O)([O-])=O.[Na+]
reactant | water | 7 ml | O | H2O
solvent | methanol | 14 ml | CO | CH4O
product | (2R)-N-methyl-2-((5R)-5-((2-naphthyl)methyl)-2-oxopiperazin-1-yl)-3-phenylpropionamide | 0.19 g | CNC([C@@H](CC1=CC=CC=C1)N1C(CN[C@@H](C1)CC1=CC2=CC=CC=C2C=C1)=O)=O | C25H27N3O2
